US07456193B2
Methyl 3-(dimethylamino)-2-(2-pyridinyl)-2-propenoate (VI)
10 g of ethyl 2-(2-pyridinyl)acetate, 39 ml of dimethoxy-N,N-dimethylmethanamine and 1.5 ml of N,N,N′,N′-tetramethylenediamine are mixed and the mixture is heated at 130° C. for 18 hours. The mixture is taken up in 120 ml of a mixture of equal volumes of AcOEt and of a saturated NH4Cl solution. The organic phase is separated by settling, washed with a saturated NaCl solution, dried over Na2SO4 and evaporated to produce the expected product in the form of an oil.

reactant | ethyl 2-(2-pyridinyl)acetate | 10 g | N1=C(C=CC=C1)CC(=O)OCC | C9H11NO2
reactant | dimethoxy-N,N-dimethylmethanamine | 39 ml | COC(N(C)C)OC | C5H13NO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | Methyl 3-(dimethylamino)-2-(2-pyridinyl)-2-propenoate | CN(C=C(C(=O)OC)C1=NC=CC=C1)C | C11H14N2O2
